US04213985
A solution of 5,11-dihydro-6H-pyrido-[2,3-b][1,4]-benzodiazepine-6-one and 6-chloro-caproyl chloride in xylene was reacted to obtain 11-(6-chloro-caproyl)-5,11-dihydro-6H-pyrido-[2,3-b][1,4]-benzodiazepine-6-one melting at 128°-130° C.

reactant | 5,11-dihydro-6H-pyrido-[2,3-b][1,4]-benzodiazepine-6-one | N1=CC=CC2=C1NC1=C(C(N2)=O)C=CC=C1 | C12H9N3O
reactant | 6-chloro-caproyl chloride | ClCCCCCC(=O)Cl | C6H10Cl2O
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | 11-(6-chloro-caproyl)-5,11-dihydro-6H-pyrido-[2,3-b][1,4]-benzodiazepine-6-one | ClCCCCCC(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=N2 | C18H18ClN3O2
